US03959260
3α-Hydroxy-21-(pyrid-2ylthio)-5α-pregnane-11,20-dione
A solution of 21-bromo-3α-hydroxy-5α-pregnane-11,20-dione (1.0 g.) in tetrahydrofuran (10 ml) was added to a solution of pyrid-2-thione (0.5 g) in 2N-aqueous sodium hydroxide (10 ml). After allowing the mixture to stand at room temperature for 3 mins., water and ether were added. The organic layer was washed with water, dried (Na2SO4) and evaporated. The residue was subjected to preparative t.l.c. and recrystallisation from methyl acetate/petrol to give title compound (240 mg.) as white needles m.p. 184° [α]D + 130° (c 0.9).

reactant | 21-bromo-3α-hydroxy-5α-pregnane-11,20-dione | 1.0 g | BrCC([C@H]1CC[C@H]2[C@@H]3CC[C@H]4C[C@@H](CC[C@]4(C)[C@H]3C(C[C@]12C)=O)O)=O | C21H31BrO3
reactant | pyrid-2-thione | 0.5 g | N1C(C=CC=C1)=S | C5H5NS
reactant | sodium hydroxide | 10 ml | [OH-].[Na+]
reactant | water | O | H2O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | ether | CCOCC | C4H10O
product | 3α-Hydroxy-21-(pyrid-2ylthio)-5α-pregnane-11,20-dione | 240 mg | O[C@H]1C[C@@H]2CC[C@H]3[C@@H]4CC[C@H](C(CSC5=NC=CC=C5)=O)[C@]4(CC([C@@H]3[C@]2(CC1)C)=O)C | C26H35NO3S
